US06335343B1
Step 1: 1-(4′-Cyanobenzyl)imidazol-5-ylmethyl piperazine-4-carboxylic acid benzyl ester
To an acetonitrile solution of 1-(4′-cyanobenzyl)-5-chloromethylimidazole (7.45 mmol) prepared as described in Example 1 and diisopropylethyl amine (22.4 mmol) was added 1-benzyl 1-piperazine carboxylate (10.4 mmol). This solution was stirred for 4.0 hour at 80° C. The product was isolated after silica column purification. 1H—NMR (CDCl-3): 7.65 (d, 2H); 7.55 (s, 1H); 7.38 (m, 5H); 7.15 (d, 2H); 7.0 (s, 1H); 5.3 (s, 2H); 5.1 (s, 1H); 3.4 (m, 4H); 3.3 (s, 2H); 2.3 (m, 4H).

reactant | 1-(4′-cyanobenzyl)-5-chloromethylimidazole | 7.45 mmol | C(#N)C1=CC=C(CN2C=NC=C2CCl)C=C1 | C12H10ClN3
reactant | diisopropylethyl amine | 22.4 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-benzyl 1-piperazine carboxylate | 10.4 mmol | N1(CCNCC1)C(=O)OCC1=CC=CC=C1 | C12H16N2O2
reactant | acetonitrile | C(C)#N | C2H3N
product | 1-(4′-Cyanobenzyl)imidazol-5-ylmethyl piperazine-4-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC1=CC=C(C=C1)C#N)CC1=CN=CN1 | C24H25N5O2
